US04404356
N-(2-Hydroxy-4-nitrophenyl)-N',N'-dimethylurea
6-Nitrobenzoxazolinone was converted into the urea as described above for benzoxazolinone, using 267 g of the nitro analogue.

reactant | 6-Nitrobenzoxazolinone | [N+](=O)([O-])C1=CC2=C(NC(O2)=O)C=C1 | C7H4N2O4
reactant | urea | NC(=O)N | CH4N2O
reactant | benzoxazolinone | C=1C=CC2=C(C1)NC(=O)O2 | C7H5NO2
product | N-(2-Hydroxy-4-nitrophenyl)-N',N'-dimethylurea | OC1=C(C=CC(=C1)[N+](=O)[O-])NC(=O)N(C)C | C9H11N3O4
